US05856503
Analogously to Example 12b, from 3-(4-bromo-phenyl)-benzo[d]isoxazol-6-ol and 1,6-dibromohexane via 6-(6-bromo-hexyloxy)-3-(4-bromo-phenyl)-benzo[d]isoxazole and by reaction with N-allyl-methyl-amine there is obtained allyl-[6-[3-(4-bromo-phenyl)-benzo[d]isoxazol-6-yloxy]-hexyl]-methyl-amine which is converted into the fumarate, MS: m/e 443 (M+H+, 1 Br).

reactant | 3-(4-bromo-phenyl)-benzo[d]isoxazol-6-ol | BrC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)O | C13H8BrNO2
reactant | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
reactant | 6-(6-bromo-hexyloxy)-3-(4-bromo-phenyl)-benzo[d]isoxazole | BrCCCCCCOC1=CC2=C(C(=NO2)C2=CC=C(C=C2)Br)C=C1 | C19H19Br2NO2
reactant | N-allyl-methyl-amine | C(C=C)NC | C4H9N
product | allyl-[6-[3-(4-bromo-phenyl)-benzo[d]isoxazol-6-yloxy]-hexyl]-methyl-amine | C(C=C)N(C)CCCCCCOC1=CC2=C(C(=NO2)C2=CC=C(C=C2)Br)C=C1 | C23H27BrN2O2
